US04197297
Substituting a stoichiometric quantity of 2-fluoro-3,4-dimethoxyphenethylamine in the synthetic procedure of Example 1 gave 6-fluoro-7,8-dimethoxy-1-(1-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine as a yellow oil. Hydrolysis with boron tribromide gave 6-fluoro-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 227° (dec.). Substituting appropriate bromo starting material in the methods described herein gave 6-bromo-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine then hydrolysis with boron tribromide gave 6-bromo-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 254° (dec.).

reactant | 6-bromo-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC1=C(C(=CC=2C(CNCCC21)C2=CC=C(C=C2)OC)OC)OC | C19H22BrNO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 6-bromo-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.BrC1=C(C(=CC=2C(CNCCC21)C2=CC=C(C=C2)O)O)O | InChI=1S/C16H16BrNO3.BrH/c17-15-11-5-6-18-8-13(9-1-3-10(19)4-2-9)12(11)7-14(20)16(15)21;/h1-4,7,13,18-21H,5-6,8H2;1H
